US06506868B1
A reactor equipped with a stirrer, water distributor, thermometer and nitrogen gas inlet was charged with 200 g of glycidol (manufactured by NOF CORPORATION, trade name “Epiol OH”) and 1997.6 g of tetramethoxysilane partial condensate (manufactured by Tama Chemicals Co., Ltd., trade name “Methyl Silicate 56”). In a stream of nitrogen, the mixture was heated to 90° C. with stirring. Then, 2 g of dibutyltin dilaurate was added as a catalyst to the mixture and allowed to react. During the reaction, methanol was removed from the reaction system using the water distributor. When the amount of the removed methanol became about 60 g, the flask was cooled. The period from completion of heating to initiation of cooling of the reactor was 6 hours. After the reactor was cooled to 50° C., the nitrogen inlet and water distributor were removed from the reactor. A vacuum line was connected to the reactor to remove about 29 g of methanol remaining in the system by maintaining the system at 13 kPa for about 20 minutes. Thereafter, the system was cooled to room temperature, giving 2110.2 g of a partial condensate of glycidyl ether group-containing alkoxysilane.

reactant | water | O | H2O
reactant | glycidol | 200 g | C1C(O1)CO | C3H6O2
reactant | tetramethoxysilane | 1997.6 g | CO[Si](OC)(OC)OC | C4H12O4Si
reactant | dibutyltin dilaurate | 2 g | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | methanol | CO | CH4O
product | glycidyl ether | C(C1CO1)OCC1CO1 | C6H10O3
